US06358972B1
5-Methoxy-4-Aza-1H-Indole
2-Methoxy-5-Nitro-6-(2-Dimethylaminoethen-1-yl)pyridine (38.78 g, 174 mmol) was dissolved in 1.2 L of ethanol, and charged with 10% palladium on carbon (5.0 g). The mixture was hydrogenated at room temperature under 40 p.s.i. of hydrogen pressure for 4 hours. After filtration through celite followed by chromatography on silica gel (50% ethyl acetate/hexane), the material was recrystallized from ethyl acetate/hexane to provide 19.62 g of the title compound. (76%). MS(m/e): 149 (M+). EA calculated for C8H8N2O: C, 64.85; H, 5.44; N, 18.91. Found: C, 64.72; H, 5.33; N, 18.76.

reactant | 2-Methoxy-5-Nitro-6-(2-Dimethylaminoethen-1-yl)pyridine | 174 mmol, 38.78 g | COC1=NC(=C(C=C1)[N+](=O)[O-])C=CN(C)C | C10H13N3O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 1.2 L | C(C)O | C2H6O
catalyst | palladium on carbon | 5.0 g | [Pd] | Pd
product | 5-Methoxy-4-Aza-1H-Indole | 19.62 g | COC=1N=C2C=CNC2=CC1 | C8H8N2O
